US07977352B2
F.17 1-(4-nitrophenyl)-4-(pentan-3-yl)piperazine:
A suspension of 1-(4-nitrophenyl)piperazine (5.00 g, 24.1 mmol, 1.0 eq), sodium triacetoxyborohydride (10.23 g, 48.3 mmol, 2 eq), and pentanone (6.23 g, 72.4 mmol, 3 eq) was stirred at RT in DCM (100 mL). Due to the viscous nature of the reaction mixture a further 50 mL of DCM was added to the reaction mixture (25 mL portion added after ca. 1 h; 25 mL portion added after 4 h). After 6 d, saturated aqueous NaHCO3 solution (25 mL) and 10% aqueous brine solution (25 mL) were added to the reaction mixture. The resulting mixture was stirred for 20 min, the phases separated, and the DCM extract washed with saturated aqueous NaHCO3 solution (25 mL), and 0% aqueous brine solution (25 mL) (50 mL total of aqueous soln in one wash). The phases were separated and the DCM extract dried by passing through a short column of MgSO4. The MgSO4 was rinsed with two portions of DCM (25 mL), and the combined DCM extracts evaporated on a rotary evaporator. To the residue obtained was added hexanes (25 mL) and the slurry stirred at rt for 24 h. The yellow precipitate which formed was collected by filtration and washed with hexanes (2×25 mL). On standing the required product precipitated from the filtrate. The precipitate was collected by filtration and dried under vacuum to provide the title compound as a yellow solid (1.13 g, 16% recovery, 87% purity as determined by LC/MS analysis @ UV 254 nm detection). The crude product was used in the next step without further purification. LCMS-ESI (m/z): calcd for C15H23N3O2, 277; [M+H]+ found, 278.

reactant | 1-(4-nitrophenyl)piperazine | 24.1 mmol, 5.00 g, 1.0 eq | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | sodium triacetoxyborohydride | 48.3 mmol, 10.23 g, 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | pentanone | 72.4 mmol, 6.23 g, 3 eq | CC(CCC)=O | C5H10O
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-nitrophenyl)-4-(pentan-3-yl)piperazine | 1.13 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(CC)CC | C15H23N3O2
